US05116877
To a solution of 18.0 g of (E)-3-(3-fluorophenyl)-2-butenoic acid in 200 ml of toluene was added 13.9 ml of triethylamine under cooling and a nitrogen atmosphere with stirring, followed by the addition of 13.0 ml of isobutyl chlorocarbonate, and then the solution was stirred at room temperature for 30 minutes. To the reaction solution cooled on ice was added dropwise 7.6 ml of cyclopropylamine with stirring, and the mixture was stirred at room temperature for 2 hours. Then, following a procedure similar to that of Example 6 to give 14.0 g of (E)-N-cyclopropyl-3-(3-fluorophenyl)-2-butenamide.

reactant | (E)-3-(3-fluorophenyl)-2-butenoic acid | 18.0 g | FC=1C=C(C=CC1)/C(=C/C(=O)O)/C | C10H9FO2
reactant | triethylamine | 13.9 ml | C(C)N(CC)CC | C6H15N
reactant | isobutyl chlorocarbonate | 13.0 ml | C(OCC(C)C)(=O)Cl | C5H9ClO2
reactant | cyclopropylamine | 7.6 ml | C1(CC1)N | C3H7N
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | (E)-N-cyclopropyl-3-(3-fluorophenyl)-2-butenamide | 14.0 g | C1(CC1)NC(\C=C(/C)\C1=CC(=CC=C1)F)=O | C13H14FNO
